US06498170B2
1-[1-(4-Butoxy-benzenesulfonyl)-azetidin-3-ylamino]-3-(9H-carbazol-4-yloxy)-propan-2-ol
To a solution of 1-{Benzyl-[1-(4-butoxy-benzenesulfonyl)-azetidin-3-yl]-amino}-3-(9H-carbazol-4-yloxy)-propan-2-ol (0.18 g, 0.3 mmol) in methanol (6 ml) was added ammonium formate (0.29 g, 4.5 mmol), and 0.045 g of 10% Pd/C. The mixture was stirred at reflux for 18 h. After cooling to room temperature, it was filtered through Celite. The solvent was evaporated and the residue triturated with isopropyl ether to give 0.14 g of a white solid; m.p. 81-84° C.; MS (ES) m/z 524.0 (MH+); HRMS (ES) Calcd. for C28H34N3O5S (MH+): 524.2219, Found: 524.2252.

reactant | 1-{Benzyl-[1-(4-butoxy-benzenesulfonyl)-azetidin-3-yl]-amino}-3-(9H-carbazol-4-yloxy)-propan-2-ol | 0.3 mmol, 0.18 g | C(C1=CC=CC=C1)N(CC(COC1=CC=CC=2NC3=CC=CC=C3C12)O)C1CN(C1)S(=O)(=O)C1=CC=C(C=C1)OCCCC | C35H39N3O5S
reactant | ammonium formate | 4.5 mmol, 0.29 g | C(=O)[O-].[NH4+]
solvent | methanol | 6 ml | CO | CH4O
catalyst | Pd/C | 0.045 g | [Pd] | Pd
product | 1-[1-(4-Butoxy-benzenesulfonyl)-azetidin-3-ylamino]-3-(9H-carbazol-4-yloxy)-propan-2-ol | 0.14 g | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)N1CC(C1)NCC(COC1=CC=CC=2NC3=CC=CC=C3C12)O | C28H33N3O5S
